US05889002
e) 4-Ethoxycarbonyl-3-isopropylamino-7-methyl-4,7-dihydropyrazolo[4,3-e][1,2,4]thiadiazine 1,1-dioxide
To a stirred solution of N-(4-ethoxycarbonylamino-1-methyl-5-pyrazolesulfonyl)-N'-isopropylthiourea (0.37 g) and triethylamine (0.45 ml) in 5 ml of dry THF at 0° C. was added 1.0 ml of a 20% solution of phosgene in toluene. The mixture was stirred at 0° C. for 30 min. and then evaporated to dryness. The residue was triturated with 10 ml of water, filtered off, rinsed on the filter with water and dried to give 0.27 g (82%) of the title compound; m.p. 141°-145° C.

reactant | N-(4-ethoxycarbonylamino-1-methyl-5-pyrazolesulfonyl)-N'-isopropylthiourea | 0.37 g | C(C)OC(=O)NC=1C=NN(C1S(=O)(=O)NC(=S)NC(C)C)C | C11H19N5O4S2
reactant | triethylamine | 0.45 ml | C(C)N(CC)CC | C6H15N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-Ethoxycarbonyl-3-isopropylamino-7-methyl-4,7-dihydropyrazolo[4,3-e][1,2,4]thiadiazine 1,1-dioxide | 0.27 g, 82% | C(C)OC(=O)N1C(=NS(C2=C1C=NN2C)(=O)=O)NC(C)C | C11H17N5O4S
